US04689339
cis-2,3-Dihydro-1,4-dimethyl-1H-indene-2-carboxylic acid chloride
cis-2,3-Dihydro-1,4-dimethyl-1H-indene-2-carboxylic acid is converted to its acid chloride by treatment with thionyl chloride. Yield 92%.

reactant | cis-2,3-Dihydro-1,4-dimethyl-1H-indene-2-carboxylic acid | C[C@H]1[C@H](CC2=C(C=CC=C12)C)C(=O)O | C12H14O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | cis-2,3-Dihydro-1,4-dimethyl-1H-indene-2-carboxylic acid chloride | Yield 92% | C[C@H]1[C@H](CC2=C(C=CC=C12)C)C(=O)Cl | C12H13ClO
